US06867198B2
3-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-4-(6-cyano-1H-indol-3-yl)pyrrole-2,5-dione
Beginning with 6-cyanoindole-3-glyoxylic acid methyl ester and 2-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)acetamide, the title compound was prepared essentially as described in Example 1.

reactant | 6-cyanoindole-3-glyoxylic acid methyl ester | COC(C(=O)C1=CNC2=CC(=CC=C12)C#N)=O | C12H8N2O3
reactant | 2-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)acetamide | C1(=CN2CCCC3=CC=CC1=C23)CC(=O)N | C13H14N2O
product | 3-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-4-(6-cyano-1H-indol-3-yl)pyrrole-2,5-dione | C1(=CN2CCCC3=CC=CC1=C23)C=2C(NC(C2C2=CNC3=CC(=CC=C23)C#N)=O)=O | C24H16N4O2
